### PR TITLE
[Merged by Bors] - feat: if `f` lies in a closed convex set `s` almost everywhere, then its conditional expectation also lies in `s` almost everywhere

### PR DESCRIPTION
**Pull request by CoolRmal**
---

- [x] depends on: #27953

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean [hunk 1]
```diff
@@ -46,6 +46,57 @@ lemma Convex.condExp_mem [IsFiniteMeasure μ] [HereditarilyLindelofSpace E] (hm
...
+    hm hfY_int (hs.preimage Y.subtypeL.continuous) lem2, lem3] with a ha hb
+  simp_all
+
+/-- If `f` lies in a closed convex set `s` a.e., then `μ[f | m]` lies in `s` a.e. -/
+lemma Convex.condExp_mem (hm : m ≤ mα) [SigmaFinite (μ.trim hm)]
+    (hf_int : Integrable f μ) (hs : IsClosed s) (hc : Convex ℝ s) (hf : ∀ᵐ a ∂μ, f a ∈ s) :
+    ∀ᵐ a ∂μ, μ[f | m] a ∈ s := by
+  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null
+    (fun t ⟨n, hn⟩ => ?_) fun t ⟨n, hn⟩ => hn ▸ ?_
+  · exact hn ▸ hm _ (measurableSet_spanningSets (μ.trim hm) n)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean]: All these `▸` make things hard to read. Can you use `rintro` instead please?

**Review by EtienneC30 — COMMENTED** [review]
Thanks!

**Comment by CoolRmal** [comment]
@EtienneC30 I removed the use of ▸ per your suggestion. I also removed the AEStronglyMeasurable assumption in AEStronglyMeasurable.norm_condExp_le. This assumption was a mistake I introduced in #27953. I had originally planned to fix it in #36888, but I got a bit stuck there and wanted to correct norm_condExp_le sooner, so I made the change here.

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean [hunk 2]
```diff
@@ -46,6 +46,57 @@ lemma Convex.condExp_mem [IsFiniteMeasure μ] [HereditarilyLindelofSpace E] (hm
...
+  filter_upwards [(hc.linear_preimage Y.subtype).condExp_mem_of_hereditarilyLindelofSpace
+    hm hfY_int (hs.preimage Y.subtypeL.continuous) lem2, lem3] with a ha hb
+  simp_all
+
+/-- If `f` lies in a closed convex set `s` a.e., then `μ[f | m]` lies in `s` a.e. -/
+lemma Convex.condExp_mem (hm : m ≤ mα) [SigmaFinite (μ.trim hm)]
+    (hf_int : Integrable f μ) (hs : IsClosed s) (hc : Convex ℝ s) (hf : ∀ᵐ a ∂μ, f a ∈ s) :
+    ∀ᵐ a ∂μ, μ[f | m] a ∈ s := by
+  apply (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null
+  <;> intro t ⟨n, hn⟩ <;> rw [← hn]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean]:
```suggestion
  apply (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null <;>
    rintro - ⟨n, rfl⟩
```

File: Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean [hunk 3]
```diff
@@ -115,9 +166,9 @@ theorem ConvexOn.map_condExp_le (hm : m ≤ mα) [SigmaFinite (μ.trim hm)]
     (hφ_cvx : ConvexOn ℝ s φ) (hφ_cont : LowerSemicontinuousOn φ s) (hf : ∀ᵐ a ∂μ, f a ∈ s)
     (hs : IsClosed s) (hf_int : Integrable f μ) (hφ_int : Integrable (φ ∘ f) μ) :
     φ ∘ μ[f | m] ≤ᵐ[μ] μ[φ ∘ f | m] := by
-  refine (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null
-    (fun t ⟨n, hn⟩ => ?_) fun t ⟨n, hn⟩ => hn ▸ ?_
-  · exact hn ▸ hm _ (measurableSet_spanningSets (μ.trim hm) n)
+  apply (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null
+  <;> intro t ⟨n, hn⟩ <;> rw [← hn]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/ConditionalExpectation/CondJensen.lean]:
```suggestion
  apply (isCountablySpanning_spanningSets (μ.trim hm)).null_of_forall_restrict_null <;>
    rintro - ⟨n, rfl⟩
```

**Review by EtienneC30 — COMMENTED** [review]
Thanks!
maintainer delegate
